US04772600
2-(4-Chlorophenyl)-N-methyl-N-phenyl-3H-imidazo[4,5-b]pyridine-3-propanamide hydrochloride [1:1]
Under nitrogen atmosphere, oxalyl chloride (2.18 g, 0.0172 mole) was added dropwise, slowly, to a stirred and chilled (10° C.) suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid (5.0 g, 0.0166 mole) in anhydrous dimethylformamide (75 ml). The reaction mixture was stirred at room temperature for 1.5 hours and then additional oxalyl chloride (0.73 l g, 0.00573 mole) was added. After stirring at room temperature for 0.5 hour, the reaction mixture was cooled in ice and methylaniline (1.91 g, 0.0178 mole) was added. The reaction mixture was stirred at room temperature for 2.25 hours and then poured into ice water (400 ml) with stirring. Addition of triethylamine (6 ml) precipitated a solid. The solution was decanted from the gum and the gum was dissolved in hot isopropyl alcohol, treated with charcoal and filtered hot. Attempts to crystallize the free base failed. The product, in isopropyl alcohol, was treated with hydrogen chloride in isopropyl alcohol until acidic. Addition of isopropyl ether caused a tan solid to precipitate. The solid was filtered, rinsed with isopropyl ether and dried under high vacuum to give 1.93 g of title compound, mp. 178°-182° C.

reactant | oxalyl chloride | 0.0172 mole, 2.18 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid | 0.0166 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)O | C15H12ClN3O2
reactant | oxalyl chloride | 0.00573 mole, 0.73 l | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylaniline | 0.0178 mole, 1.91 g | CNC1=CC=CC=C1 | C7H9N
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chlorophenyl)-N-methyl-N-phenyl-3H-imidazo[4,5-b]pyridine-3-propanamide hydrochloride | 1.93 g | Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)N(C1=CC=CC=C1)C | InChI=1S/C22H19ClN4O.ClH/c1-26(18-6-3-2-4-7-18)20(28)13-15-27-21(16-9-11-17(23)12-10-16)25-19-8-5-14-24-22(19)27;/h2-12,14H,13,15H2,1H3;1H
